US07488572B2
In an amount of 32.4 g of behenic acids, 9.9 g of arachidic acid and 5.6 g of stearic acid were dissolved in 945 mL of pure water at 90° C. Then, the solution was added with 98 mL of 1.5 mol/L sodium hydroxide aqueous solution with stirring at high speed. Subsequently, the solution was added with 0.93 mL of concentrated nitric acid, cooled at 55° C. and stirred for 30 minutes to obtain sodium behenate solution.

reactant | arachidic acid | 9.9 g | C(CCCCCCCCCCCCCCCCCCC)(=O)O | C20H40O2
reactant | stearic acid | 5.6 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | sodium hydroxide | 1.5 mol/L, 98 mL | [OH-].[Na+]
reactant | nitric acid | 0.93 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 945 mL | O | H2O
product | sodium behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)[O-].[Na+] | InChI=1S/C22H44O2.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22(23)24;/h2-21H2,1H3,(H,23,24);/q;+1/p-1
